US06051712
A solution of 1.07 g (1.48 mmol) of tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate in 15 ml of methylene chloride was treated at room temperature with 2 ml of 2N hydrogen chloride in methanol and the mixture was stirred at room temperature for 15 minutes. Subsequently, the solution was poured into 30 ml of saturated sodium carbonate solution and this was extracted twice with 50 ml of ethyl acetate each time. The combined organic phases were dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 99:1 mixture of methylene chloride and methanol as the eluent. There were obtained 580 mg (82% of theory) of tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless oil; MS: 447 (M)+.

reactant | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate | 1.48 mmol, 1.07 g | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C47H47NO4
reactant | hydrogen chloride | 2N, 2 ml | Cl | ClH
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 580 mg, 82% | OCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C28H33NO4
